US09079866B2
5-{2′-[(Cyclopropylmethyl)sulfonyl]-3-fluorobiphenyl-4-yl}pyrimidin-2-amine
The title compound was prepared using conditions analogous to those used to make Example 6 5-(2-fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)pyrimidin-2-amine and 1-bromo-2-((cyclopropylmethyl)sulfonyl)benzene. MS (ESI): mass calcd. for C20H18FN3O2S, 383.11; m/z found, 384.2 [M+H]+. 1H NMR (400 MHz, DMSO-d6) δ 8.53 (d, J=1.5, 2H), 8.11 (dd, J=7.9, 1.2, 1H), 7.80 (m, 1H), 7.72 (m, 1H), 7.62 (m, 1H), 7.46 (dd, J=7.6, 1.1, 1H), 7.37 (dd, J=11.8, 1.7, 1H), 7.28 (dd, J=7.9, 1.7, 1H), 6.93 (s, 2H), 2.91 (d, J=7.2, 2H), 0.78-0.69 (m, 1H), 0.45-0.37 (m, 2H), 0.13-0.05 (m, 2H).

reactant | 5-(2-fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)pyrimidin-2-amine | FC1=C(C=CC(=C1)B1OC(C(O1)(C)C)(C)C)C=1C=NC(=NC1)N | C16H19BFN3O2
reactant | 1-bromo-2-((cyclopropylmethyl)sulfonyl)benzene | BrC1=C(C=CC=C1)S(=O)(=O)CC1CC1 | C10H11BrO2S
product | 5-{2′-[(Cyclopropylmethyl)sulfonyl]-3-fluorobiphenyl-4-yl}pyrimidin-2-amine | C1(CC1)CS(=O)(=O)C1=C(C=CC=C1)C1=CC(=C(C=C1)C=1C=NC(=NC1)N)F | C20H18FN3O2S
